US06828315B1
Method B: 7-bromo-1-(N,N-dimethylamino)-4-[3-(3-pyridyl)-allyl]-4H-[1,2,4]triazolo[4,3-a]quinazolin-5-one (ex. 3)
In a reactor equipped with magnetic shaker and refrigeration, we resuspend 7.4 g (0.024 mol) of 7-bromo-1-(N,N-dimethylamino)-4H-[1,2,4]triazolo[4,3-a]quinazolin-5-one in 200 ml de 1,2-dimethoxyethane then we shake. We add 17.0 g (0.052 mol) of cesium carbonate then shake at ambient temperature for 15 minutes. 4.5 g (0.024 mol) of 3-(3-pyridyl)-allyl chloride hydrochloride are then added by fraction, then the mixture is heated to 70° C., under shaking, for 3 hours. The solvent is evaporated under vacuum then the residue is then put in suspension in 300 ml of iced water. After repeated extractions with ethyl acetate, the joined organic phases are washed with aqueous solution saturated with sodium chloride, dried on sodium sulfate then the solvent is evaporated under vacuum.

reactant | 7-bromo-1-(N,N-dimethylamino)-4H-[1,2,4]triazolo[4,3-a]quinazolin-5-one | 0.024 mol, 7.4 g | BrC=1C=C2C(NC=3N(C2=CC1)C(=NN3)N(C)C)=O | C11H10BrN5O
reactant | cesium carbonate | 0.052 mol, 17.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(3-pyridyl)-allyl chloride hydrochloride | 0.024 mol, 4.5 g | Cl.N1=CC(=CC=C1)C=CCCl
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 7-bromo-1-(N,N-dimethylamino)-4-[3-(3-pyridyl)-allyl]-4H-[1,2,4]triazolo[4,3-a]quinazolin-5-one | BrC=1C=C2C(N(C=3N(C2=CC1)C(=NN3)N(C)C)CC=CC=3C=NC=CC3)=O | C19H17BrN6O
